US09085555B2
A. 1-Benzyloxycarbonylmethyl-pyridinium bromide
To a solution of benzyl bromoacetate (10 g, 43.7 mmol) in acetone (200 mL) was added a solution of pyridine (3.51 mL, 43.7 mmol) in acetone (20 mL) and the resulting mixture was stirred at 60° C. under nitrogen over the week-end. Then allowed to cool to RT and concentrated to give the desired material. MS (LC/MS): 228.1 [MH]+.

reactant | benzyl bromoacetate | 43.7 mmol, 10 g | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | pyridine | 43.7 mmol, 3.51 mL | N1=CC=CC=C1 | C5H5N
solvent | acetone | 200 mL | CC(=O)C | C3H6O
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 1-Benzyloxycarbonylmethyl-pyridinium bromide | [Br-].C(C1=CC=CC=C1)OC(=O)C[N+]1=CC=CC=C1 | InChI=1S/C14H14NO2.BrH/c16-14(11-15-9-5-2-6-10-15)17-12-13-7-3-1-4-8-13;/h1-10H,11-12H2;1H/q+1;/p-1
